2181-01-12 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-1-11**] 07:30 PM
 URINE CULTURE - At [**2181-1-11**] 10:00 PM
 FEVER - 102.1
F - [**2181-1-11**] 08:00 PM
   - Pt was transfered from the floor after he was found unresponsive.  He
   was found to have a left parietal CVA with ICH and transfered to the
   MICU.
   - Multiple attempts were made to obtain IV access including multiple
   central line attempts.  One resulted in a hemo-pneumothorax.  A chest
   tube was placed by surgery.  Finally an IV was placed on the right arm
   by the IV team.
   - He required pressors for some time after he developed a
   hemo-pneumothorax.
   - His mental status remained altered during the night, requiring ativan
   and propofol.
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2181-1-11**] 06:40 PM
   Lorazepam (Ativan) - [**2181-1-12**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-12**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.3
C (101
   HR: 100 (94 - 112) bpm
   BP: 102/62(71) {53/22(28) - 157/99(106)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                     48 mL
                                                                    771 mL
   PO:
   TF:
   IVF:
                                                                     48 mL
                                                                    771 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                    292 mL
   Urine:
                                                                     30 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                    479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: ///22/
   Ve: 8.5 L/min
   Physical Examination
   General: Dishevled, Lethargic, incomprehensible, agitated, combative
   HEENT: Macroglossia with whitish plaques. PEERL, Sclera anicteric, MMM,
   left gaze preference with leftward nystagmus
   Neck: Supple, JVP flat, no LAD
   Lungs: Clear to Auscultation Bilaterally, without wheezes, rales,
   rhonchi
   CV: Tahcycardic, S1, S2, No M/R/G
   Abdomen:  Soft, Obese, Non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  incomprehensible speech, agitated, no movement of right arm,
   decreased motor of right leg
   Labs / Radiology
   281 K/uL
   12.7 g/dL
   131 mg/dL
   1.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   19 mg/dL
   95 mEq/L
   132 mEq/L
   37.5 %
   17.8 K/uL
        [image002.jpg]
                            [**2181-1-9**]  02:11 AM
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
   WBC
   14.6
   15.2
   17.8
   Hct
   37.0
   41.6
   37.5
   Plt
   238
   303
   281
   Cr
   0.8
   1.0
   1.8
   Glucose
   120
   103
   131
   Other labs: PT / PTT / INR:14.1/31.9/1.2, Ca++:9.1 mg/dL, Mg++:2.0
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEMOTHORAX
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   62 M w/ pmh of untreated HTN, emphysema, alcoholism w/ h/o withdrawal
   seizures admitted to MICU after being found seizing on his porch,
   treated for alcohol withdrawal in the [**Hospital 7277**] transferred to the floor
   and found to be somnolent today, found to have intracerebral
   hemorrhage.
   .
   #. Intraparenchymal Hemorrhage:  Evidence of hemorrhage by non-contrast
   head CT, could be primary (AVM, amyloid angiopathy) or secondary
   hemorrhage as a result of ischemia.  A contrast CT was not able to be
   done considering lack of IV access acutely.  Will consider MRI/MRA
   head/neck when the patient is more stable.  Repeat Non-contrast head CT
   did not show any interval change of the intraparenchymal hemorrhage.
   Neurology Stroke team is on board.
   - Pt received dilantin load of 20 mg/kg, ie 1600mg X1 yesterday,
   followed by Dilantin 100mg TID this AM for presumed seizure activity as
   the cause of his symptoms
   - Dilantin level pending
   - Will start continuous EEG monitoring today
   - Will continue home dose of Keppra 1000mg [**Hospital1 **]
   - Will treat hyperglycemia with ISS
   - required intubation for airway protection
   - Neurology Stroke Consult Service on board
   - will place on seizure precautions
   .
   #.  Leukocytosis:  [**Month (only) 60**] have been secondary to stroke, however patient
   also is febrile.  As the patient has been inpatient for some time, he
   is at risk for hospital acquired infections.
   - Will send blood, urine and sputum cultures
   - CXR does not show evidence of consolidation
   - Start empiric antibiotics for possible aspiration pneumonia, with
   clindamycin
   .
   #  Hemo/Pneumothorax:  Iatrogenic from subclavian line placement.
   Chest tube in place putting out 300cc of serosanginous fluid, with
   intermittent air leak.  Will check with surgery regarding placement.
   Will get ABG/VBG correlation and adjust ventilatory settings based on
   those, the patient may require decreased tidal volumes and increased
   Fi02.
   .
   # ETOH withdrawal:  Will monitor of CIWA protocol q1h with IV
   diazepam.  Will use ativan 2mg q1H PRN given patient unable to express
   symptoms.
   .
   # Hypertension:  Blood pressures were elevated on admission, up to
   160
s prior to CVA, had episodes of hypotension following
   hemo-pneumothorax and propofol bolus.  Responded to short run of
   norepinephrine, currently on fluids to maintain adequate blood
   pressures.  Per Neurology, will attempt to maintain BP less than 160
   systolic with IV hydralazine if needed.
   .
   # Hypoxia: Patient had history of emphysema on CT Chest in [**5-18**].
   Likely from heavy smoking history.  Patient may have aspirated in his
   ictal state.   Will monitor respiratory status closely.  Patient
   intubated given acute agitation and need for central access.   Will
   wean ventilator settings as patient
s mental status tolerates.
   .
   # FEN:  continue IVF, replete electrolytes as needed, NPO for now, the
   patient will need some form of nutrition, consider tube feeds, consult
   nutrition for tube feed recs.
   .
   # Prophylaxis: pneumoboots, on seizure precautions
   .
   # Access: Peripheral in foot, right arm and left leg, plan to get
power picc
 today
   .
   # Code: Presumed Full
   .
   # Communication: Patient
   .
   # Disposition: ICU
   ICU Care
   Nutrition: Will consider tube feeds
   Glycemic Control:  ISS
   Lines: PIVs only
   22 Gauge - [**2181-1-12**] 03:12 AM
   20 Gauge - [**2181-1-12**] 03:51 AM
   Prophylaxis:
   DVT:   Heparin SC TID
   Stress ulcer:
   Communication:  Comments:
   Code status:  Full code
   Disposition:  ICU

2181-01-12 11:02:00 Physician Attending Progress Note
Chief Complaint: acute stroke
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-1-11**] 07:30 PM
 URINE CULTURE - At [**2181-1-11**] 10:00 PM
 FEVER - 102.1
F - [**2181-1-11**] 08:00 PM
   Intubated and sedated overnight
   Failed CVL attempts by me
   vascular surgery called for cut down, but instead reattempted right
   subclavian complicated by PTX
   Repeat non con head CT without interval change sig left parietal bleed
   To IR for line today
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2181-1-11**] 06:40 PM
   Heparin Sodium (Prophylaxis) - [**2181-1-12**] 06:52 AM
   Propofol - [**2181-1-12**] 07:55 AM
   Lorazepam (Ativan) - [**2181-1-12**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-12**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.1
C (100.6
   HR: 105 (94 - 112) bpm
   BP: 95/80(84) {53/22(28) - 157/99(106)} mmHg
   RR: 19 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (8 - 8)mmHg
   Total In:
                                                                     48 mL
                                                                  1,601 mL
   PO:
   TF:
   IVF:
                                                                     48 mL
                                                                  1,601 mL
   Blood products:
   Total out:
                                                                     30 mL
                                                                    312 mL
   Urine:
                                                                     30 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                  1,289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: dishelved
   Eyes / Conjunctiva: PERRL, ETT OGT
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  ecchymoses
   Neurologic: somnolent. Severe nystagmus, right neglect
   Labs / Radiology
   12.7 g/dL
   281 K/uL
   131 mg/dL
   1.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   19 mg/dL
   95 mEq/L
   132 mEq/L
   37.5 %
   17.8 K/uL
        [image002.jpg]
                            [**2181-1-9**]  02:11 AM
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
   WBC
   14.6
   15.2
   17.8
   Hct
   37.0
   41.6
   37.5
   Plt
   238
   303
   281
   Cr
   0.8
   1.0
   1.8
   Glucose
   120
   103
   131
   Other labs: PT / PTT / INR:14.1/31.9/1.2, Ca++:9.1 mg/dL, Mg++:2.0
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEMOTHORAX
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Issues: 62 yr old man initial admitted with ETOH withdrawl and SZ has
   acute CVA on floor
   1. Resp failure:  intubated for airway protection, will try to swap
   over to PSV as tolerates
   2. HemoPneumothorax: chest tube to suction, repeat CXR in afternoon.
   Still air leak. Trauma surgery following.
   3. Fevers: DDX ICH versus aspiration PNA- Start Clinda, pan culture
   4. ETOH withdrawl: on Propoafol, ativan prn
   5. Access: for IR guided midline today
   Remianig issues as per Housestaff Notes
   ICU Care
   Nutrition: start TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-12**] 03:51 AM
   22 Gauge - [**2181-1-12**] 08:24 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP: HOB chlorhex
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2181-01-13 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2181-1-12**] 10:33 AM
   TIP in axilla
 BLOOD CULTURED - At [**2181-1-12**] 11:30 AM
   from L midline
 URINE CULTURE - At [**2181-1-12**] 11:46 AM
 ULTRASOUND - At [**2181-1-12**] 01:03 PM
 TRANSTHORACIC ECHO - At [**2181-1-12**] 01:45 PM
 EEG - At [**2181-1-12**] 03:08 PM
   [**2181-1-12**]
   - afternoon labs, pt BUN elevated, hypotensive, started NS drip at 100,
   bolused 2 addt'l liters
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2181-1-13**] 06:19 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2181-1-12**] 08:05 AM
   Propofol - [**2181-1-12**] 11:30 AM
   Dilantin - [**2181-1-13**] 12:30 AM
   Fentanyl - [**2181-1-13**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-13**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37
C (98.6
   HR: 78 (75 - 105) bpm
   BP: 114/54(68) {94/52(62) - 152/93(87)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,197 mL
                                                                  1,066 mL
   PO:
             TF:
   IVF:
                                                                  5,197 mL
                                                                  1,066 mL
   Blood products:
   Total out:
                                                                    591 mL
                                                                    265 mL
   Urine:
                                                                    311 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,606 mL
                                                                    801 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.37/38/43/21/-2
   Ve: 8.7 L/min
   PaO2 / FiO2: 86
   Physical Examination
   General: Dishevled, Lethargic, incomprehensible, agitated, combative
   HEENT: Macroglossia with whitish plaques. PEERL, Sclera anicteric, MMM,
   left gaze preference with leftward nystagmus
   Neck: Supple, JVP flat, no LAD
   Lungs: Clear to Auscultation Bilaterally, without wheezes, rales,
   rhonchi
   CV: Tahcycardic, S1, S2, No M/R/G
   Abdomen:  Soft, Obese, Non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro:  incomprehensible speech, agitated, no movement of right arm,
   decreased motor of right leg
   Labs / Radiology
   229 K/uL
   9.2 g/dL
   91 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   22 mg/dL
   106 mEq/L
   136 mEq/L
   27.4 %
   12.8 K/uL
        [image002.jpg]
2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN CLUSTERS.
2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN CHAINS.
CXR: New RLL Opacity, ET tube ~6cm from carina
                            [**2181-1-9**]  02:11 AM
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
   WBC
   14.6
   15.2
   17.8
   13.9
   12.8
   Hct
   37.0
   41.6
   37.5
   31.7
   27.4
   Plt
   238
   303
   281
   256
   229
   Cr
   0.8
   1.0
   1.8
   1.8
   1.2
   TCO2
   23
   23
   Glucose
   120
   103
   131
   140
   91
   Other labs: PT / PTT / INR:14.1/31.9/1.2, Lactic Acid:1.2 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   62 M w/ pmh of untreated HTN, emphysema, alcoholism w/ h/o withdrawal
   seizures admitted to MICU after being found seizing on his porch,
   treated for alcohol withdrawal in the [**Hospital 7277**] transferred to the floor
   and found to be somnolent today, found to have intracerebral
   hemorrhage.
   .
   #. Intraparenchymal Hemorrhage:  Evidence of hemorrhage by non-contrast
   head CT, could be primary (AVM, amyloid angiopathy) or secondary
   hemorrhage as a result of ischemia.  A contrast CT was not able to be
   done considering lack of IV access acutely.  Will consider MRI/MRA
   head/neck when the patient is more stable.  Repeat Non-contrast head CT
   did not show any interval change of the intraparenchymal hemorrhage.
   Neurology Stroke team is on board.
   - Pt received dilantin load of 20 mg/kg, ie 1600mg X1 yesterday,
   followed by Dilantin 100mg TID this AM for presumed seizure activity as
   the cause of his symptoms
   - Dilantin level pending
   - Will start continuous EEG monitoring today
   - Will continue home dose of Keppra 1000mg [**Hospital1 **]
   - Will treat hyperglycemia with ISS
   - required intubation for airway protection
   - Neurology Stroke Consult Service on board
   - will place on seizure precautions
   .
   #.  Leukocytosis:  [**Month (only) 60**] have been secondary to stroke, however patient
   also is febrile.  As the patient has been inpatient for some time, he
   is at risk for hospital acquired infections.
   - Will send blood, urine and sputum cultures
   - CXR does not show evidence of consolidation
   - Start empiric antibiotics for possible aspiration pneumonia, with
   clindamycin
   .
   #  Hemo/Pneumothorax:  Iatrogenic from subclavian line placement.
   Chest tube in place putting out 300cc of serosanginous fluid, with
   intermittent air leak.  Will check with surgery regarding placement.
   Will get ABG/VBG correlation and adjust ventilatory settings based on
   those, the patient may require decreased tidal volumes and increased
   Fi02.
   .
   # ETOH withdrawal:  Will monitor of CIWA protocol q1h with IV
   diazepam.  Will use ativan 2mg q1H PRN given patient unable to express
   symptoms.
   .
   # Hypertension:  Blood pressures were elevated on admission, up to
   160
s prior to CVA, had episodes of hypotension following
   hemo-pneumothorax and propofol bolus.  Responded to short run of
   norepinephrine, currently on fluids to maintain adequate blood
   pressures.  Per Neurology, will attempt to maintain BP less than 160
   systolic with IV hydralazine if needed.
   .
   # Hypoxia: Patient had history of emphysema on CT Chest in [**5-18**].
   Likely from heavy smoking history.  Patient may have aspirated in his
   ictal state.   Will monitor respiratory status closely.  Patient
   intubated given acute agitation and need for central access.   Will
   wean ventilator settings as patient
s mental status tolerates.
   .
   # FEN:  continue IVF, replete electrolytes as needed, NPO for now, the
   patient will need some form of nutrition, consider tube feeds, consult
   nutrition for tube feed recs.
   .
   # Prophylaxis: pneumoboots, on seizure precautions
   .
   # Access: Peripheral in foot, right arm and left leg, plan to get
power picc
 today
   .
   # Code: Presumed Full
   .
   # Communication: Patient
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-12**] 03:51 AM
   22 Gauge - [**2181-1-12**] 08:24 AM
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-01-13 12:09:00 Physician Attending Progress Note
Chief Complaint: stroke, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2181-1-12**] 10:33 AM
   TIP in axilla
 BLOOD CULTURED - At [**2181-1-12**] 11:30 AM
   from L midline
 URINE CULTURE - At [**2181-1-12**] 11:46 AM
 ULTRASOUND - At [**2181-1-12**] 01:03 PM
 TRANSTHORACIC ECHO - At [**2181-1-12**] 01:45 PM
 EEG - At [**2181-1-12**] 03:08 PM
   Bolus IVF for low BP and poor UOP
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2181-1-13**] 06:19 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2181-1-13**] 02:00 AM
   Dilantin - [**2181-1-13**] 08:16 AM
   Other medications:
   Keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-13**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38
C (100.4
   HR: 82 (75 - 94) bpm
   BP: 142/63(82) {96/52(62) - 152/93(87)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,197 mL
                                                                  1,256 mL
   PO:
             TF:
   IVF:
                                                                  5,197 mL
                                                                  1,256 mL
   Blood products:
   Total out:
                                                                    591 mL
                                                                    505 mL
   Urine:
                                                                    311 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,606 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 23 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.37/38/43/21/-2
   Ve: 7.2 L/min
   PaO2 / FiO2: 86
   Physical Examination
   Gen: intubated and seadted
   CV RR
   Chest coarse bs bilat + crepitus
   Abd pbese distened
   Ext: 1+ tibial edema
   Neuro: opens eyes to voice, squeezes hand on command, not squeezing or
   moving right side to command
 by report occ moving right foot but I
   have not seen this
   Labs / Radiology
   9.2 g/dL
   229 K/uL
   91 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   22 mg/dL
   106 mEq/L
   136 mEq/L
   27.4 %
   12.8 K/uL
        [image002.jpg]
                            [**2181-1-9**]  02:11 AM
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
   WBC
   14.6
   15.2
   17.8
   13.9
   12.8
   Hct
   37.0
   41.6
   37.5
   31.7
   27.4
   Plt
   238
   303
   281
   256
   229
   Cr
   0.8
   1.0
   1.8
   1.8
   1.2
   TCO2
   23
   23
   Glucose
   120
   103
   131
   140
   91
   Other labs: PT / PTT / INR:15.0/31.1/1.3, Lactic Acid:1.2 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEMOTHORAX
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Issues: 62 yr old man initial admitted with ETOH withdrawl and SZ has
   acute CVA on floor
   1. Resp failure:  intubated for airway protection, will try to swap
   over to PSV as tolerates
   2. HemoPneumothorax: chest tube to suction, repeat CXR in afternoon.
   Still air leak. Trauma surgery following. [**Month (only) 60**] need 2^nd chest tube.
   3. Fevers: DDX ICH versus aspiration PNA- Start Clinda, pan culture
   4. ETOH withdrawl: on Propafol, ativan prn
   5. Access: IR guided midline
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition: Tfs tonight of not extubated
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-12**] 03:51 AM
   22 Gauge - [**2181-1-12**] 08:24 AM
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication: try to find a family or friend
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2181-01-14 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2181-1-13**] 09:25 PM
 FEVER - 101.2
F - [**2181-1-13**] 08:00 PM
   - Failed a trial of pressure support (uncomfortable, belly breathing)
   - tube feeds started
   CXR this AM showed evidence of worsening pneumothorax with tension.
   The patient then self extubated this AM, and was successfully
   reintubated by anesthesia after an episode of bagging.
   Trauma surgery team was called for second chest tube placement
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2181-1-14**] 06:36 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2181-1-14**] 12:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-14**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 76 (71 - 86) bpm
   BP: 140/65(83) {105/56(66) - 148/74(88)} mmHg
   RR: 21 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,841 mL
                                                                    480 mL
   PO:
             TF:
                                                                     75 mL
                                                                    198 mL
   IVF:
                                                                  2,716 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    335 mL
   Urine:
                                                                    965 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,746 mL
                                                                    145 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 620 (620 - 620) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 10.1 L/min
   Physical Examination
   General: intubated, sedated
   HEENT: Macroglossia with whitish plaques. PEERL, Sclera anicteric, MMM,
   left gaze preference with leftward nystagmus
   Neck: Supple, JVP flat, no LAD
   Lungs: Prominent Rhonchi/ vent sounds, crepitus on anterior chest
   CV: Tahcycardic, S1, S2, No M/R/G
   Abdomen:  Soft, Obese, Non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses L>R, Edema L>R
   Neuro:  Sedated with propofol
   Labs / Radiology
   229 K/uL
   9.2 g/dL
   91 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.7 mEq/L
   22 mg/dL
   106 mEq/L
   136 mEq/L
   27.4 %
   12.8 K/uL
        [image002.jpg]
                            [**2181-1-9**]  02:11 AM
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
                             [**2181-1-13**]  12:50 PM
   WBC
   14.6
   15.2
   17.8
   13.9
   12.8
   Hct
   37.0
   41.6
   37.5
   31.7
   27.4
   27.4
   Plt
   238
   303
   281
   256
   229
   Cr
   0.8
   1.0
   1.8
   1.8
   1.2
   TCO2
   23
   23
   Glucose
   120
   103
   131
   140
   91
   Other labs: PT / PTT / INR:15.0/31.1/1.3, Lactic Acid:1.2 mmol/L,
   LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEMOTHORAX
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   62 M w/ pmh of untreated HTN, emphysema, alcoholism w/ h/o withdrawal
   seizures admitted to MICU after being found seizing on his porch,
   treated for alcohol withdrawal in the [**Hospital 7277**] transferred to the floor
   and found to be somnolent with have intracerebral hemorrhage.
   #. Intraparenchymal Hemorrhage:  Evidence of hemorrhage by non-contrast
   head CT suggests ischemic conversion,
   - Pt received dilantin load of 20 mg/kg, ie 1600mg X1 yesterday,
   followed by Dilantin 100mg TID this AM for presumed seizure activity as
   the cause of his symptoms, dilantin level 3.2, will discuss with
   neurology about redosing
    - follow up results of continuous EEG monitoring
   - Will continue home dose of Keppra 1000mg [**Hospital1 **]
   - Propofol for sedation while intubated
   - Will treat hyperglycemia with ISS
   - required intubation for airway protection
   - Neurology Stroke Consult Service following
   - will continue seizure precautions
   #.  Respiratory Failure:  Multifactorial, hemo-pneumothorax requiring
   second chest tube placement as well as likely aspiration or hospital
   acquired pneumonia given positive cultures from the sputum growing gram
   positive cocci in clusters and chains as well as gram positive rods.
   - Continue clindamycin for aspiration coverage, will start vancomycin
   today for possible staph
   - Given activity today, will continue propofol sedation and not attempt
   to wean today.
   # ETOH withdrawal:  Propofol an effective [**Doctor Last Name **] for withdrawal, will
   reassess after stopping the sedation..
   # Hypertension:  Blood pressures were elevated on admission, up to
   160
s prior to CVA, had episodes of hypotension following
   hemo-pneumothorax and propofol bolus.  Responded to short run of
   norepinephrine, currently on fluids to maintain adequate blood
   pressures.  Per Neurology, will attempt to maintain BP less than 160
   systolic with IV hydralazine if needed.
   # FEN:  continue IVF, replete electrolytes as needed, NPO for now, the
   patient will need some form of nutrition, consider tube feeds, consult
   nutrition for tube feed recs unless extubated today.
   .
   # Prophylaxis: pneumoboots, on seizure precautions
   .
   # Access: Peripheral in foot, right arm and left leg, Power PICC placed
   .
   # Code: Presumed Full, will attempt to get records from VA regarding
   HCP, and code status
   .
   # Communication: Patient
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2181-1-13**] 07:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-12**] 03:51 AM
   22 Gauge - [**2181-1-12**] 08:24 AM
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   Communication:  Comments:
   Code status:
   Disposition:

2181-01-14 10:40:00 Physician Attending Progress Note
Chief Complaint: resp failure, stroke, pneumothorax
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2181-1-13**] 09:25 PM
 FEVER - 101.2
F - [**2181-1-13**] 08:00 PM
   This AM recuurent PTX requiring 2nd chest tube
   Self extubated and successfully reintubated
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2181-1-14**] 06:36 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2181-1-14**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-14**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.4
   HR: 71 (71 - 95) bpm
   BP: 130/65(86) {110/59(69) - 189/100(122)} mmHg
   RR: 15 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,841 mL
                                                                    683 mL
   PO:
             TF:
                                                                     75 mL
                                                                    212 mL
   IVF:
                                                                  2,716 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    480 mL
   Urine:
                                                                    965 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,746 mL
                                                                    203 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 620 (620 - 620) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 16.8 L/min
   Physical Examination
   Gen: intubated and seadted
   CV RR
   Chest coarse bs bilat + crepitus
   Abd pbese distened
   Ext: 1+ tibial edema
   Neuro: opens eyes to voice, squeezes hand on command, not squeezing or
   moving right side to command
 by report occ moving right foot but I
   have not seen this
   Labs / Radiology
   9.0 g/dL
   309 K/uL
   90 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   14 mg/dL
   107 mEq/L
   140 mEq/L
   27.5 %
   14.1 K/uL
        [image002.jpg]
                            [**2181-1-9**]  02:11 AM
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
                             [**2181-1-13**]  12:50 PM
                             [**2181-1-14**]  06:15 AM
   WBC
   14.6
   15.2
   17.8
   13.9
   12.8
   14.1
   Hct
   37.0
   41.6
   37.5
   31.7
   27.4
   27.4
   27.5
   Plt
   238
   303
   281
   [**Telephone/Fax (3) 7323**]
   Cr
   0.8
   1.0
   1.8
   1.8
   1.2
   0.8
   TCO2
   23
   23
   Glucose
   120
   103
   131
   140
   91
   90
   Other labs: PT / PTT / INR:13.9/30.1/1.2, Lactic Acid:1.2 mmol/L,
   LDH:202 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   CXR: 2^nd chest tube in place on right with resolution of PTX
   Head CT: no interval change
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEMOTHORAX
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Issues: 62 yr old man initial admitted with ETOH withdrawl and SZ has
   acute CVA in left parietal
 ischemic with hemmorhagic conversion
   1. Resp failure:  intubated for airway protection peri stroke but resp
   status now complicated by PTX with persistent air leak (? evolving
   bronch pulm fistula) and likely asp PNA. Continue AC today while
   stabalzes
 try PSV later today if able
   2. HemoPneumothorax: persistent leak, ? 1^st CT in fissure per Trauma
   but now 2^nd chest tube with ongoing air leak. [**Month (only) 60**] need CT in AM to
   further delineate if persists.
   3. Fevers: DDX ICH versus aspiration PNA- has been on Clinda but would
   add Vanco
 given unsepc GPC in sputum
   4. ETOH withdrawl: on Propafol, ativan prn
   5. Access: IR guided midline
   No ability to find family. Contact VA as he has been there Will need to
   pursue guardianship next week if unable.
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-12**] 03:51 AM
   22 Gauge - [**2181-1-12**] 08:24 AM
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  trying to find family
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2181-01-15 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2181-1-14**] 08:00 AM
   - Dilantin level low at 3.2, Neurology requested bolus of 500mg today
   and maintain 100mg TID dosing.
   - pt put out 100ccs into new chest tube and 100 additional ccs into old
   chest tube
   - Increased propofol sedation to 30 given agitation
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-15**] 12:12 AM
   Clindamycin - [**2181-1-15**] 06:05 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-1-14**] 12:11 PM
   Dilantin - [**2181-1-15**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-15**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 77 (70 - 95) bpm
   BP: 127/64(79) {103/52(65) - 189/100(122)} mmHg
   RR: 32 (12 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,047 mL
                                                                    758 mL
   PO:
             TF:
                                                                    744 mL
                                                                    348 mL
   IVF:
                                                                  1,103 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    365 mL
   Urine:
                                                                    930 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    787 mL
                                                                    393 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 11.9 L/min
   Physical Examination
   General: intubated, sedated
   HEENT: Macroglossia with whitish plaques. PEERL, Sclera anicteric, MMM,
   left gaze preference with leftward nystagmus
   Neck: Supple, JVP flat, no LAD
   Lungs: Prominent Rhonchi/ vent sounds, crepitus on anterior chest
   CV: Tahcycardic, S1, S2, No M/R/G
   Abdomen:  Soft, Obese, Non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses L>R, Edema L>R
   Neuro:  Sedated with propofol
   Labs / Radiology
   333 K/uL
   8.9 g/dL
   132 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.6 mEq/L
   11 mg/dL
   105 mEq/L
   136 mEq/L
   27.7 %
   14.7 K/uL
        [image002.jpg]
                            [**2181-1-9**]  02:11 AM
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
                             [**2181-1-13**]  12:50 PM
                             [**2181-1-14**]  06:15 AM
                             [**2181-1-15**]  03:35 AM
   WBC
   14.6
   15.2
   17.8
   13.9
   12.8
   14.1
   14.7
   Hct
   37.0
   41.6
   37.5
   31.7
   27.4
   27.4
   27.5
   27.7
   Plt
   238
   303
   281
   [**Telephone/Fax (3) 7323**]
   333
   Cr
   0.8
   1.0
   1.8
   1.8
   1.2
   0.8
   0.7
   TCO2
   23
   23
   Glucose
   120
   103
   131
   140
   91
   90
   132
   Other labs: PT / PTT / INR:13.9/32.2/1.2, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   62 M w/ pmh of untreated HTN, emphysema, alcoholism w/ h/o withdrawal
   seizures admitted to MICU after being found seizing on his porch,
   treated for alcohol withdrawal in the [**Hospital 7277**] transferred to the floor
   and found to be somnolent with have intracerebral hemorrhage.
   #. Intraparenchymal Hemorrhage:  Evidence of hemorrhage by non-contrast
   head CT suggests ischemic conversion,
   - Pt received dilantin load of 20 mg/kg, ie 1600mg X1 yesterday,
   followed by Dilantin 100mg TID this AM for presumed seizure activity as
   the cause of his symptoms, dilantin level 3.2, will discuss with
   neurology about redosing
    - follow up results of continuous EEG monitoring
   - Will continue home dose of Keppra 1000mg [**Hospital1 **]
   - Propofol for sedation while intubated
   - Will treat hyperglycemia with ISS
   - required intubation for airway protection
   - Neurology Stroke Consult Service following
   - will continue seizure precautions
   #.  Respiratory Failure:  Multifactorial, hemo-pneumothorax requiring
   second chest tube placement as well as likely aspiration or hospital
   acquired pneumonia given positive cultures from the sputum growing gram
   positive cocci in clusters and chains as well as gram positive rods.
   - Continue clindamycin for aspiration coverage, will start vancomycin
   today for possible staph
   - Given activity today, will continue propofol sedation and not attempt
   to wean today.
   # ETOH withdrawal:  Propofol an effective [**Doctor Last Name **] for withdrawal, will
   reassess after stopping the sedation..
   # Hypertension:  Blood pressures were elevated on admission, up to
   160
s prior to CVA, had episodes of hypotension following
   hemo-pneumothorax and propofol bolus.  Responded to short run of
   norepinephrine, currently on fluids to maintain adequate blood
   pressures.  Per Neurology, will attempt to maintain BP less than 160
   systolic with IV hydralazine if needed.
   # FEN:  continue IVF, replete electrolytes as needed, NPO for now, the
   patient will need some form of nutrition, consider tube feeds, consult
   nutrition for tube feed recs unless extubated today.
   .
   # Prophylaxis: pneumoboots, on seizure precautions
   .
   # Access: Peripheral in foot, right arm and left leg, Power PICC placed
   .
   # Code: Presumed Full, will attempt to get records from VA regarding
   HCP, and code status
   .
   # Communication: Patient
   .
   # Disposition: ICU
 HYPOTENSION (NOT SHOCK)
 HEMOTHORAX
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2181-1-13**] 07:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-12**] 03:51 AM
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-01-16 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2181-1-16**] 12:39 AM
   -MRI/MRA ordered per Neuro
   -Attempted to change to PS vent
   -CXR-daily per Trauma-tip initially thought to be broken by rads,
   trauma feels it is kinked and stable.
   -Started on bowel regimen
   -No nutrition recs listed in computer, reconsulted team
   -propofol drip changed to versed/fentanyl
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-15**] 08:28 PM
   Clindamycin - [**2181-1-16**] 06:18 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-1-15**] 08:27 PM
   Dilantin - [**2181-1-16**] 12:45 AM
   Midazolam (Versed) - [**2181-1-16**] 04:30 AM
   Fentanyl - [**2181-1-16**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-16**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.7
C (96.2
   HR: 65 (63 - 77) bpm
   BP: 94/54(63) {92/47(58) - 142/80(94)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,411 mL
                                                                    443 mL
   PO:
                                                                     30 mL
             TF:
                                                                  1,238 mL
                                                                    242 mL
   IVF:
                                                                  1,938 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    256 mL
   Urine:
                                                                    930 mL
                                                                    256 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,411 mL
                                                                    187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 422 (422 - 422) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 98%
   ABG: ///28/
   Ve: 8.7 L/min
   Physical Examination
   Physical Examination
   General: intubated, sedated
   HEENT: Macroglossia with whitish plaques. PEERL, Sclera anicteric, MMM,
   left gaze preference with leftward nystagmus
   Neck: Supple, JVP flat, no LAD
   Lungs: Prominent Rhonchi/ vent sounds, crepitus on anterior chest
   CV: Tahcycardic, S1, S2, No M/R/G
   Abdomen:  Soft, Obese, Non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses L>R, Edema L>R
   Neuro:  Sedated with propofol
   Labs / Radiology
   359 K/uL
   8.8 g/dL
   92 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   8 mg/dL
   104 mEq/L
   136 mEq/L
   26.9 %
   8.7 K/uL
        [image002.jpg]
   CXR: Chest tube in RL appears kinked.  Worsening RLL opacity vs. air
   leak
   Micro: [**1-13**] UCx + for enterococcus
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
                             [**2181-1-13**]  12:50 PM
                             [**2181-1-14**]  06:15 AM
                             [**2181-1-15**]  03:35 AM
                             [**2181-1-16**]  03:17 AM
   WBC
   15.2
   17.8
   13.9
   12.8
   14.1
   14.7
   8.7
   Hct
   41.6
   37.5
   31.7
   27.4
   27.4
   27.5
   27.7
   26.9
   Plt
   [**Telephone/Fax (2) 7350**]
   359
   Cr
   1.0
   1.8
   1.8
   1.2
   0.8
   0.7
   0.6
   TCO2
   23
   23
   Glucose
   103
   131
   140
   91
   90
   132
   92
   Other labs: PT / PTT / INR:13.9/32.2/1.2, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   62 M w/ pmh of untreated HTN, emphysema, alcoholism w/ h/o withdrawal
   seizures admitted to MICU after being found seizing on his porch,
   treated for alcohol withdrawal in the [**Hospital 7277**] transferred to the floor
   and found to be somnolent with have intracerebral hemorrhage.
   #. Intraparenchymal Hemorrhage:  Evidence of hemorrhage by non-contrast
   head CT suggests ischemic conversion,
   - Pt received dilantin load yesterday, corrected value 12 accounting
   for albumin level, satisfactory per neuro
   - MRI/MRA w/ and w/out contrast of brain
    - follow up results of continuous EEG monitoring
   - Will continue home dose of Keppra 1000mg [**Hospital1 **]
   - Propofol for sedation while intubated
   - Cont. ISS for hyperglycemia
   - Neurology Stroke Consult Service following
   - will continue seizure precautions
   #.  Respiratory Failure:  Multifactorial, hemo-pneumothorax requiring
   second chest tube placement as well as likely aspiration or hospital
   acquired pneumonia given positive cultures from the sputum growing gram
   positive cocci in clusters and chains as well as gram positive rods.
   - Continue clindamycin and vancomycin
   - Given activity today, will continue propofol sedation and attempt PS
   # ETOH withdrawal:  Propofol an effective [**Doctor Last Name **] for withdrawal, will
   reassess after stopping the sedation..
   # Hypertension:  Blood pressures were elevated on admission, up to
   160
s prior to CVA, had episodes of hypotension following
   hemo-pneumothorax and propofol bolus.  Responded to short run of
   norepinephrine, currently on fluids to maintain adequate blood
   pressures.
   -Target BP <160 per CVA, currently normotensive
   # FEN:  continue IVF, replete electrolytes as needed, on Tube feeds,
   begin bowel regimen
   .
   # Prophylaxis: pneumoboots, on seizure precautions
   .
   # Access: Peripheral in foot, right arm and left leg, Power PICC placed
   .
   # Code: Presumed Full, social work involved to get HCP and clarify
   code status
   .
   # Communication: Patient
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2181-1-13**] 07:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-01-17 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2181-1-16**] 06:35 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2181-1-16**] 06:53 PM
   Self extubated and not reintubated (DNR/DNI).  Tolerated shovel mask
   well.
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-16**] 08:52 PM
   Clindamycin - [**2181-1-17**] 06:08 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-1-16**] 08:02 AM
   Dilantin - [**2181-1-16**] 08:02 AM
   Midazolam (Versed) - [**2181-1-16**] 12:00 PM
   Fentanyl - [**2181-1-16**] 01:00 PM
   Fosphenytoin - [**2181-1-17**] 12:29 AM
   Lorazepam (Ativan) - [**2181-1-17**] 03:30 AM
   Metoprolol - [**2181-1-17**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-17**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 79 (64 - 88) bpm
   BP: 153/78(97) {85/48(56) - 162/84(104)} mmHg
   RR: 17 (17 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,658 mL
                                                                    198 mL
   PO:
                                                                     30 mL
             TF:
                                                                    610 mL
   IVF:
                                                                    988 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  1,731 mL
                                                                  1,090 mL
   Urine:
                                                                  1,451 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -73 mL
                                                                   -892 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 841 (470 - 1,155) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 5.7 L/min
   Physical Examination
   General extubated, opens eyes to voice tracks only on left side
   HEENT: Macroglossia with whitish plaques. PEERL, Sclera anicteric, MMM,
   left gaze preference with leftward nystagmus
   Neck: Supple, JVP flat, no LAD
   Lungs: Decreased rhonchi, crepitus on anterior chest, CT in place
   draining serosanginous fluid
   CV: Tachycardic, S1, S2, No M/R/G
   Abdomen:  Soft, Obese, Non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses L>R, Edema R>L
   Neuro:  right side neglect, right arm paresis, paraplegia, decreased
   movement of right leg, incoherent speech
   Labs / Radiology
   359 K/uL
   8.8 g/dL
   92 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   8 mg/dL
   104 mEq/L
   136 mEq/L
   26.9 %
   8.7 K/uL
        [image002.jpg]
                             [**2181-1-11**]  06:40 PM
                             [**2181-1-12**]  02:31 AM
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
                             [**2181-1-13**]  12:50 PM
                             [**2181-1-14**]  06:15 AM
                             [**2181-1-15**]  03:35 AM
                             [**2181-1-16**]  03:17 AM
   WBC
   15.2
   17.8
   13.9
   12.8
   14.1
   14.7
   8.7
   Hct
   41.6
   37.5
   31.7
   27.4
   27.4
   27.5
   27.7
   26.9
   Plt
   [**Telephone/Fax (2) 7350**]
   359
   Cr
   1.0
   1.8
   1.8
   1.2
   0.8
   0.7
   0.6
   TCO2
   23
   23
   Glucose
   103
   131
   140
   91
   90
   132
   92
   Other labs: PT / PTT / INR:13.9/44.2/1.2, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   62 M w/ pmh of untreated HTN, emphysema, alcoholism w/ h/o withdrawal
   seizures admitted to MICU after being found seizing on his porch,
   treated for alcohol withdrawal in the [**Hospital 7277**] transferred to the floor
   and found to be somnolent with intracerebral hemorrhage.
   #. Intraparenchymal Hemorrhage:  Evidence of hemorrhage by non-contrast
   head CT suggests ischemic conversion,
   - Switch Dilantin to Fosphenytoin yesterday for line ease, in addition
   to Keppra 1000mg [**Hospital1 **] for seizure prophylaxis
   - MRI/MRA w/ and w/out contrast of brain showed biparietal hemorrhagic
   infarction
   - Cont. ISS for hyperglycemia
   - Neurology Stroke Consult Service following
   - will continue seizure precautions
   - Likely hemorrhage due to venous congestion, continue Heparin gtt
   #.  Respiratory Failure:  Multifactorial, hemo-pneumothorax requiring
   second chest tube placement as well as likely aspiration or hospital
   acquired pneumonia given positive cultures from the sputum growing gram
   positive cocci in clusters and chains as well as gram positive rods.
   Pt self extubated overnight, tolerating shovel mask well.  Plan not to
   reintubate given prognosis of intraparenchymal hemorrhage.
   - Continue clindamycin and vancomycin, will get ID approval today
   - Continue shovel mask and O2 supplementation as needed.
   # ETOH withdrawal:  Resolved at this time. Will use ativan for acute
   agitation, will use antipsychotics if ativan is not helpful..
   # Hypertension:  Blood pressures were elevated on admission, up to
   160
s prior to CVA, had episodes of hypotension following
   hemo-pneumothorax and propofol bolus.  Responded to short run of
   norepinephrine, currently on fluids to maintain adequate blood
   pressures.
   -Target BP <160 per CVA, currently normotensive
   # FEN:  continue IVF, replete electrolytes as needed, attempt to
   replace NGT to restart tube feeds, bowel regimen
   .
   # Prophylaxis:  heparin gtt, on seizure precautions
   .
   # Access: Peripheral in foot, right arm and left leg, Power PICC placed
   .
   # Code: Will make DNR/DNI given the patient
s poor prognosis and lack
   of futility in resuscitation
   .
   # Communication: Patient
 HYPOTENSION (NOT SHOCK)
 HEMOTHORAX
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 .H/O SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-01-18 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tolerating extubation well
   - attempted to place doboff, however unsuccessful secondary to patient
   agitation
   - Vanc approved by ID
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-17**] 08:00 PM
   Clindamycin - [**2181-1-18**] 05:38 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-1-17**] 08:17 PM
   Fosphenytoin - [**2181-1-18**] 12:48 AM
   Lorazepam (Ativan) - [**2181-1-18**] 01:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-18**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36
C (96.8
   HR: 86 (77 - 102) bpm
   BP: 149/80(97) {124/51(74) - 165/90(106)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,514 mL
                                                                    239 mL
   PO:
             TF:
   IVF:
                                                                  1,514 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  3,785 mL
                                                                    840 mL
   Urine:
                                                                  3,575 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,271 mL
                                                                   -601 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   General extubated, opens eyes to voice tracks only on left side
   HEENT: Macroglossia with whitish plaques. PEERL, Sclera anicteric, MMM,
   left gaze preference with leftward nystagmus
   Neck: Supple, JVP flat, no LAD
   Lungs: Decreased rhonchi, crepitus on anterior chest, CT in place
   draining serosanginous fluid
   CV: Tachycardic, S1, S2, No M/R/G
   Abdomen:  Soft, Obese, Non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses L>R, Edema R>L
   Neuro:  right side neglect, right arm paresis, paraplegia, decreased
   movement of right leg, incoherent speech
   Labs / Radiology
   423 K/uL
   9.5 g/dL
   96 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.6 mEq/L
   5 mg/dL
   101 mEq/L
   139 mEq/L
   28.5 %
   10.8 K/uL
        [image002.jpg]
   CXR: Improving R hemopneumothorax
                             [**2181-1-12**]  02:31 AM
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
                             [**2181-1-13**]  12:50 PM
                             [**2181-1-14**]  06:15 AM
                             [**2181-1-15**]  03:35 AM
                             [**2181-1-16**]  03:17 AM
                             [**2181-1-17**]  02:43 AM
   WBC
   17.8
   13.9
   12.8
   14.1
   14.7
   8.7
   10.8
   Hct
   37.5
   31.7
   27.4
   27.4
   27.5
   27.7
   26.9
   28.5
   Plt
   [**Telephone/Fax (3) 7387**]
   423
   Cr
   1.8
   1.8
   1.2
   0.8
   0.7
   0.6
   0.5
   TCO2
   23
   23
   Glucose
   131
   140
   91
   90
   132
   92
   96
   Other labs: PT / PTT / INR:13.2/29.1/1.1, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:202 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   [**2181-1-13**]
ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             ENTEROCOCCUS SP.
                             |
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------   <=1 S
   Assessment and Plan
   62 M w/ pmh of untreated HTN, emphysema, alcoholism w/ h/o withdrawal
   seizures admitted to MICU after being found seizing on his porch,
   treated for alcohol withdrawal in the [**Hospital 7277**] transferred to the floor
   and found to be somnolent with intracerebral hemorrhage.
   #. Intraparenchymal Hemorrhage:  Evidence of hemorrhage by non-contrast
   head CT suggests ischemic conversion,
   - Switch Dilantin to Fosphenytoin yesterday for line ease, in addition
   to Keppra 1000mg [**Hospital1 **] for seizure prophylaxis
   - MRI/MRA w/ and w/out contrast of brain showed biparietal hemorrhagic
   infarction
   - Cont. ISS for hyperglycemia
   - Neurology Stroke Consult Service following
   - will continue seizure precautions
   - Likely hemorrhage due to venous congestion, continue Heparin gtt
   #.  Respiratory Failure:  Multifactorial, hemo-pneumothorax requiring
   second chest tube placement as well as likely aspiration or hospital
   acquired pneumonia given positive cultures from the sputum growing gram
   positive cocci in clusters and chains as well as gram positive rods.
   Pt self extubated overnight, tolerating shovel mask well.  Plan not to
   reintubate given prognosis of intraparenchymal hemorrhage.
   - Continue clindamycin and vancomycin, will get ID approval today
   - Continue shovel mask and O2 supplementation as needed.
   # ETOH withdrawal:  Resolved at this time. Will use ativan for acute
   agitation, will use antipsychotics if ativan is not helpful..
   # Hypertension:  Blood pressures were elevated on admission, up to
   160
s prior to CVA, had episodes of hypotension following
   hemo-pneumothorax and propofol bolus.  Responded to short run of
   norepinephrine, currently on fluids to maintain adequate blood
   pressures.
   -Target BP <160 per CVA, currently normotensive
   # FEN:  continue IVF, replete electrolytes as needed, attempt to
   replace NGT to restart tube feeds, bowel regimen
   .
   # Prophylaxis:  heparin gtt, on seizure precautions
   .
   # Access: Peripheral in foot, right arm and left leg, Power PICC placed
   .
   # Code: Will make DNR/DNI given the patient
s poor prognosis and lack
   of futility in resuscitation
   .
   # Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-01-19 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -2 attempts made to place dobhoff with tube entering lungs.  Will get
   GI or surgery to place G tube per sister request.  GI unable to do it
   until Monday/Tuesday.  Ordered for IR peg in AM
   -Per trauma, CT to water seal
   -Transitioned to lovenox from heparin drip given access issues and
   inability to monitor PTT
   -Required Haldol, Ativan, Zyprexa at night for agitation
   Patient communicative but aphasic.
   Allergies:
   Penicillins
   Unknown; Rash;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-18**] 08:41 PM
   Clindamycin - [**2181-1-19**] 05:36 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2181-1-18**] 04:40 PM
   Enoxaparin (Lovenox) - [**2181-1-18**] 04:52 PM
   Famotidine (Pepcid) - [**2181-1-18**] 07:50 PM
   Fosphenytoin - [**2181-1-19**] 12:43 AM
   Lorazepam (Ativan) - [**2181-1-19**] 01:34 AM
   Haloperidol (Haldol) - [**2181-1-19**] 02:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-19**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 99 (78 - 103) bpm
   BP: 170/71(93) {132/70(26) - 170/90(108)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,107 mL
                                                                    120 mL
   PO:
             TF:
   IVF:
                                                                  1,107 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  2,375 mL
                                                                    425 mL
   Urine:
                                                                  2,295 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,268 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General: Uncomfortable appearing gentleman positioned awkwardly in bed
   HEENT: Sclera anicteric, MMM, left gaze preference with leftward
   nystagmus
   Neck: Supple, JVP flat, no LAD
   Lungs: Crepitus resolved, diffuse rhonchi
   CV: S1 & S2 regular without murmur
   Abdomen:  Soft, Obese, Non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses L>R, Edema R>L
   Neuro:  right side neglect, right arm paresis, paraplegia, decreased
   movement of right leg, responses appear appropriate but remain
   difficult to comprehend
   Lines: Nasal Cannula, L Antecubital Midline, R Chest tube, Foley
   catheter
   Labs / Radiology
   502 K/uL
   10.7 g/dL
   89 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   5 mg/dL
   100 mEq/L
   138 mEq/L
   31.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2181-1-12**]  03:28 PM
                             [**2181-1-12**]  05:05 PM
                             [**2181-1-13**]  03:22 AM
                             [**2181-1-13**]  04:04 AM
                             [**2181-1-13**]  12:50 PM
                             [**2181-1-14**]  06:15 AM
                             [**2181-1-15**]  03:35 AM
                             [**2181-1-16**]  03:17 AM
                             [**2181-1-17**]  02:43 AM
                             [**2181-1-19**]  03:09 AM
   WBC
   13.9
   12.8
   14.1
   14.7
   8.7
   10.8
   10.2
   Hct
   31.7
   27.4
   27.4
   27.5
   27.7
   26.9
   28.5
   31.7
   Plt
   [**Telephone/Fax (3) **]33
   359
   423
   502
   Cr
   1.8
   1.2
   0.8
   0.7
   0.6
   0.5
   0.6
   TCO2
   23
   23
   Glucose
   140
   91
   90
   132
   92
   96
   89
   Other labs: PT / PTT / INR:13.7/24.1/1.2, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, LDH:202 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.2
   mg/dL
   Imaging: CXR: Hemopneumothorax improved from prior
   Microbiology: None
   Assessment and Plan
   62 year old man with history of Htn, Emphysema and alcoholism admitted
   initially for withdrawal seizures to later develop intracerebral
   hemorrhage from embolic stroke.  His respiratory and mental status
   continue to improve, but he is still confused, easily agitated and
   lacks a solution for nutrition at this time.
   #. Intraparenchymal Hemorrhage:  No indication of progressing disease.
   - Hold Fosphenytoin as levels cannot reliably be drawn
   - Keppra 1g [**Hospital1 **] for seizure prophylaxis
   - Neurology Stroke Consult Service following
   - Continue seizure precautions
   - Lovenox 80mg SC BID started for anticoagulation, last dose Saturday
   PM
   #.  Respiratory Failure:  Patient tolerating nasal cannula.  Aspiration
   pneumonia improving on Clindamycin & vancomycin.  Hemopneumothorax
   secondary to line placement continues with chest tube draining ~100ccs
   today.
   -          Clindamycin 600mg IV Q8h & Vancomycin 1g Q12 8 day total
   course (until [**2181-1-21**])
   -          Continue NC and supplement with shovel mask as needed
   -          Chest Tube to be removed today per surgery
   # Hypertension:  Target BP <160 per CVA, currently normotensive
   # FEN:  Doboff placement unsuccessful, NG tube placed.  PEG scheduled
   for Monday, last dose lovenox Saturday night.  Confirmatory chest x-ray
   still pending.
   # Prophylaxis:  Lovenox, Seizure PPx
   # Access: Midline, peripheral IV only
   # Code: Made DNR/DNI
   # Communication: Patient
s Sister [**Name (NI) 3728**] [**Name (NI) 7341**] W: [**Telephone/Fax (1) 7394**], H:
   [**Telephone/Fax (1) 7395**], will seek Guardianship
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2181-1-12**] 10:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: